US07259175B2
(3-Bromo-4-hydroxy-phenoxy)-acetic acid ethyl ester
To a solution of (4-hydroxy-phenoxy)-acetic acid ethyl ester (0.59 g, 3 mmol) in acetic acid (1.5 mL) is added bromine (0.48 g, 9 mmol) in acetic acid (0.5 mL) at room temperature. After 5 min, solvent is evaporated and purified by column chromatography on silica gel giving the title compound (0.6 g).

reactant | (4-hydroxy-phenoxy)-acetic acid ethyl ester | 3 mmol, 0.59 g | C(C)OC(COC1=CC=C(C=C1)O)=O | C10H12O4
reactant | bromine | 9 mmol, 0.48 g | BrBr | Br2
solvent | acetic acid | 1.5 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
product | (3-Bromo-4-hydroxy-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=CC(=C(C=C1)O)Br)=O | C10H11BrO4
